US08304434B2
Step 3: 2-(cyclopropylsulfonyl)-3-{[4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidin-1-yl]carbonyl}-6-(trifluoromethyl)pyridine
To a 50 ml round bottom flask was added 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine (1.64 g, 4.88 mmol), 2-(cyclopropylsulfonyl)-6-(trifluoromethyl)nicotinic acid (1.2 g, 4.06 mmol), Bop reagent (2.16 g, 4.88 mmol), diisopropylethyl amine (1.42 ml, 8.13 mmol) and 10 ml dimethylformamide. The resulting solution was stirred at room temperature 10 minutes. It was diluted with 60 ml NH4Cl solution and extracted with 60 ml ethyl acetate. The organics were dried over sodium sulfate, filtered and concentrated. The sesidue was purified on silica gel column eluted with 2:1 ethyl acetate/hexane. The desired fraction was collected and concentrated. The residue was further purified on prep-TLC to give title compound as a white solid.

reactant | 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine | 4.88 mmol, 1.64 g | CC(C)(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1CCNCC1 | C15H20F3NO2S
reactant | 2-(cyclopropylsulfonyl)-6-(trifluoromethyl)nicotinic acid | 4.06 mmol, 1.2 g | C1(CC1)S(=O)(=O)C1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C10H8F3NO4S
reactant | Bop reagent | 4.88 mmol, 2.16 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 8.13 mmol, 1.42 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | NH4Cl | 60 ml | [NH4+].[Cl-]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(cyclopropylsulfonyl)-3-{[4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidin-1-yl]carbonyl}-6-(trifluoromethyl)pyridine | C1(CC1)S(=O)(=O)C1=NC(=CC=C1C(=O)N1CCC(CC1)C(C)(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C)C(F)(F)F | C25H26F6N2O5S2
